US09290511B2
N—[[1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]-N,1-dimethyl-pyrrolidin-3-amine (100 mg, 0.219 mmol) and pyrrolidine-3-carboxamide (300 mg, 2.63 mmol) were stirred in dry acetonitrile (1.5 ml) and heated in a microwave at 140° C. for 0.5 h. The solvent was evaporated and the crude residue purified by flash column chromatography (0 to 5% 7.0M NH3/MeOH in dichloromethane) to give 1-[4-[4-[[methyl-(1-methylpyrrolidin-3-yl)amino]methyl]-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]pyrrolidine-3-carboxamide as an off white solid (25 mg, 21%). m/z (M+H)+534.3, RT=2.69 min.

reactant | N—[[1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]-N,1-dimethyl-pyrrolidin-3-amine | 0.219 mmol, 100 mg | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CN(C2CN(CC2)C)C | C24H30ClN5S
reactant | pyrrolidine-3-carboxamide | 2.63 mmol, 300 mg | N1CC(CC1)C(=O)N | C5H10N2O
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 1-[4-[4-[[methyl-(1-methylpyrrolidin-3-yl)amino]methyl]-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]pyrrolidine-3-carboxamide | CN(C1CN(CC1)C)CC1CCN(CC1)C=1C2=C(N=C(N1)N1CC(CC1)C(=O)N)SC=C2C2=CC=CC=C2 | C29H39N7OS
